US06548522B1
N-Pent-4-ynyl-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 90° C. and MS: m/e=278.2 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and pent-4-ynyl-amine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | pent-4-ynyl-amine | C(CCC#C)N | C5H9N
product | N-Pent-4-ynyl-2,2-diphenyl-acetamide | C(CCC#C)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19NO
